US08859591B2
3,3-Difluorocyclobutanecarboxylic acid (Parkway Scientific, New York, N.Y., USA) (531 mg, 3.90 mmol) was dissolved in dichloromethane (3.00 mL) and oxalyl chloride (1.02 mL, 11.7 mmol) was added. The solution was stirred at room temperature for 4 h before concentrating in vacuo to provide 3,3-difluorocyclobutanecarbonyl chloride (ca. 50% pure), which was carried on without purification.

reactant | 3,3-Difluorocyclobutanecarboxylic acid | 3.90 mmol, 531 mg | FC1(CC(C1)C(=O)O)F | C5H6F2O2
reactant | oxalyl chloride | 11.7 mmol, 1.02 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 3.00 mL | ClCCl | CH2Cl2
product | 3,3-difluorocyclobutanecarbonyl chloride | ca. 50% | FC1(CC(C1)C(=O)Cl)F | C5H5ClF2O
